US06683201B2
A solution of 6.63 g (20 mmol) of N-(4-Hydroxy-phenyl)-N-methyl-4-trifluoromethyl-benzenesulfonamide in 150 ml of DMF was treated with 7.1 ml (60 mmol) of 1,4-dibromobutane and with 1.00 g (23 mmol) of 55% NaH (in small portions) at 0° C. The reaction mixture was stirred for 4 h at RT, poured into cooled aqueous saturated NH4Cl and extracted (Et2O 3×). The organic phase was washed with aqueous 10% NaCl, dried (NaSO4) evaporated and purified by flash silica gel column (first with hexane to remove the dibromobutane and then Hexane/EtOAc 95:5) to yield 7.7 g (83%) of N-[4-(4-Bromo-butoxy)-phenyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide, mp: 91-92° C.; MS: 465 (M, 1 Br).

reactant | N-(4-Hydroxy-phenyl)-N-methyl-4-trifluoromethyl-benzenesulfonamide | 20 mmol, 6.63 g | OC1=CC=C(C=C1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C | C14H12F3NO3S
reactant | 1,4-dibromobutane | 60 mmol, 7.1 ml | BrCCCCBr | C4H8Br2
reactant | NaH | 23 mmol, 1.00 g | [H-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | N-[4-(4-Bromo-butoxy)-phenyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide | 7.7 g, 83% | BrCCCCOC1=CC=C(C=C1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C | C18H19BrF3NO3S
